US09301951B2
3-(3-(4-(dimethylamino)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzylthio)propanoic acid
This compound was prepared according to the procedure described for the synthesis of 3-((3-((4-(Dipropylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzyl)thio)propanoic acid Example 19, using dimethylamine in place of dipropylamine. (ES, m/z): 637 [M+H]+(300 MHz, DMSO, ppm): 12.10 (s, 1H), 9.53 (t, J=6.0 Hz, 1H), 8.97 (d, J=5.1 Hz, 1H), 8.33 (s, 1H), 8.26 (d, J=8.7 Hz, 1H), 7.85-7.87 (m, 2H), 7.72-7.77 (m, 2H), 7.45-7.69 (m, 5H), 7.35 (s, 1H), 7.09 (d, J=7.8 Hz, 1H), 4.63 (d, J=5.7 Hz, 2H), 3.87 (s, 2H), 3.04 (s, 6H), 2.53-2.64 (m, 4H).

reactant | 3-((3-((4-(Dipropylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzyl)thio)propanoic acid | C(CC)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)CCC | C37H39F3N4O4S
reactant | dimethylamine | CNC | C2H7N
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-(3-(4-(dimethylamino)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzylthio)propanoic acid | CN(C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)C | C33H31F3N4O4S
